US08049015B2
N-Benzyl-N-(2-bromo-5-trifluoromethyl-benzyl)-acetamide and bis(pinacolato)diboron were reacted as described in Example 11, Step 3 to provide N-benzyl-N-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-acetamide.

reactant | N-Benzyl-N-(2-bromo-5-trifluoromethyl-benzyl)-acetamide | C(C1=CC=CC=C1)N(C(C)=O)CC1=C(C=CC(=C1)C(F)(F)F)Br | C17H15BrF3NO
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | N-benzyl-N-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-acetamide | C(C1=CC=CC=C1)N(C(C)=O)CC1=C(C=CC(=C1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C | C23H27BF3NO3
